US07759495B2
(S)-benzyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-2-(methoxycarbonylamino)propanoate (502 mg, 1.11 mmol) was hydrogenated in the presence of Pd—C (82 mg) in MeOH (5 mL) at atmospheric pressure for 12 h. The mixture was filtered through diatomaceous earth (Celite®) and concentrated in vacuo. (S)-2-(methoxycarbonylamino)-3-(1H-1,2,3-triazol-4-yl)propanoic acid was obtained as a colorless gum (266 mg, 111%) which was contaminated with ca. 10% of the methyl ester. The material was used as is without further purification.

reactant | (S)-benzyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-2-(methoxycarbonylamino)propanoate | 1.11 mmol, 502 mg | C(C1=CC=CC=C1)N1N=NC(=C1)C[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OC | C21H22N4O4
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd—C | 82 mg | [Pd] | Pd
product | (S)-2-(methoxycarbonylamino)-3-(1H-1,2,3-triazol-4-yl)propanoic acid | COC(=O)N[C@H](C(=O)O)CC=1N=NNC1 | C7H10N4O4
